US05100460
Potassium carbonate (4.6 g, 0.033 mole) is suspended in acetone (100 cc) and the whole is heated to 50°-60° C. An acetone (30 cc) solution of 2-chlorothiophenol (4.3 g, 0.03 mole) and of a mixture (9.1 g, 0.03 mole) containing 1-chloro-2-phenyl-2-propene (50%) and 1-chloro-2-phenyl-1-propene (50%) is added dropwise under nitrogen. After 1 h of stirring at 50°-60° C. the reaction mixture is poured into water and ice (150 g) and is then reextracted with ether (3×100 cc). It is washed with water (2×150 cc) and dried over MgSO4. The crude (11.7 g) is distilled in a ball oven to give 1-[2'-chlorophenylthio]-2-phenyl-2-propene (6.3 g, 80%) Bp0.5 =180° C. nD24 =1.6340.

reactant | Potassium carbonate | 0.033 mole, 4.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chlorothiophenol | 0.03 mole, 4.3 g | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | 1-chloro-2-phenyl-2-propene | ClCC(=C)C1=CC=CC=C1 | C9H9Cl
reactant | 1-chloro-2-phenyl-1-propene | ClC=C(C)C1=CC=CC=C1 | C9H9Cl
solvent | acetone | 100 cc | CC(=O)C | C3H6O
solvent | acetone | 30 cc | CC(=O)C | C3H6O
solvent | ether | 100 cc | CCOCC | C4H10O
solvent | water | O | H2O
product | 1-[2'-chlorophenylthio]-2-phenyl-2-propene | 6.3 g, 80% | ClC1=C(C=CC=C1)SCC(=C)C1=CC=CC=C1 | C15H13ClS
